US05061726
Anhydrous liquid ammonia (400 ml) was stirred at -70°, under a current of nitrogen. 2-Benzylthiomethyl-3,3-dimethylbutyl benzyl ether (7.0 g) in dry diethyl ether (100 ml) was added and this was followed by sodium (4.0 g) in small pieces. The resulting mixture was stirred at -70° for 3 hours and then allowed to warm up to 20° C. Ammonium chloride (20 g) was added followed by dry methanol (70 ml). When all the sodium had dissolved, water was added and the mixture was extracted with diethyl ether. The ethereal extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. 3,3-Dimethyl-2-mercaptomethyl-butan-1-ol was obtained as a pale yellow oil (2.8 without further purification.

reactant | ammonia | 400 ml | N | H3N
reactant | 2-Benzylthiomethyl-3,3-dimethylbutyl benzyl ether | 7.0 g | C(C1=CC=CC=C1)OCC(C(C)(C)C)CSCC1=CC=CC=C1 | C21H28OS
reactant | sodium | 4.0 g | [Na] | Na
reactant | Ammonium chloride | 20 g | [Cl-].[NH4+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | 3,3-Dimethyl-2-mercaptomethyl-butan-1-ol | CC(C(CO)CS)(C)C | C7H16OS
